US04359420
A solution of 46.7 g (150 mmol) of ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate in 300 ml of dry tetrahydrofuran is treated dropwise at ca 35° C. with a solution of 8.3 g (377 mmol) of lithium borohydride in 110 ml of dry tetrahydrofuran. The mixture is heated to boiling under reflux for ca 40 L hours, cooled to room temperature, treated with 110 ml of 12 percent hydrochloric acid and 20 ml of concentrated hydrochloric acid and again heated to boiling under reflux for 2 hours. After removal of the tetrahydrofuran in vacuo, the residue is made alkaline with concentrated ammonia. The separated material is filtered off under suction and washed with water. After recrystallisation from ethanol, there is obtained (S)-11,12,13,13a-tetrahydro-1-(hydroxymethyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 212°-214° C.

reactant | ethyl (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 150 mmol, 46.7 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)OCC)CCC2 | C17H17N3O3
reactant | lithium borohydride | 377 mmol, 8.3 g | [BH4-].[Li+]
reactant | hydrochloric acid | 110 ml | Cl | ClH
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | (S)-11,12,13,13a-tetrahydro-1-(hydroxymethyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | OCC=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C15H15N3O2
